US04812462
Methyl-1-(4-amino-3-methylphenyl)methyl-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]-pyridine-6-carboxylate.
A solution of 31.2 g methyl-1-(4-nitro-3-methylphenyl)methyl-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate in tetrahydrofuran-methanol (2:1, 600 mL) is treated with 8.0 g Raney Nickel and placed under an atmosphere of hydrogen at 50 psi for 26 hr. The catalyst is removed by filtration and filtrate is evaporated to give a crisp foam. NMR (CDCl3) 6.77 (s+d,2H,2,6-Ar); 6.60 (d,1H,5-Ar). mp 182°-188° C.

reactant | methyl-1-(4-nitro-3-methylphenyl)methyl-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate | 31.2 g | COC(=O)C1CC2=C(CN1C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)N=CN2CC2=CC(=C(C=C2)[N+](=O)[O-])C | C30H28N4O5
solvent | tetrahydrofuran-methanol | 600 mL | O1C(CCC1)CO | C5H10O2
catalyst | Raney Nickel | 8.0 g | [Ni] | Ni
product | Methyl-1-(4-amino-3-methylphenyl)methyl-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]-pyridine-6-carboxylate | COC(=O)C1CC2=C(CN1C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)N=CN2CC2=CC(=C(C=C2)N)C | C30H30N4O3
